### PR TITLE
feat(LorentzGroup): add closed embedding into matrices

### PR DESCRIPTION
**Pull request by Robby955**
## Summary

Adds closedness facts for `LorentzGroup d` in the ambient matrix space, as a small topological step toward #885.

## Changes

- prove continuity of `Λ ↦ Λ * dual Λ`
- prove `LorentzGroup d` is closed in the matrix space
- prove the subtype coercion from `LorentzGroup d` to matrices is a closed embedding

## Verification

- `lake build Physlib.Relativity.LorentzGroup.Basic`
- API probe for `LorentzGroup.continuous_self_mul_dual`, `LorentzGroup.isClosed`, and `LorentzGroup.isClosedEmbedding_val`
- `./scripts/lint-style.py Physlib/Relativity/LorentzGroup/Basic.lean`
- `git diff --check`
- no `sorry`, `admit`, or `axiom` in the touched file

## Risk / Rollback

No migration, dependency, security, or user-facing behavior impact. Roll back by reverting the single `Physlib/Relativity/LorentzGroup/Basic.lean` change.

### CODE REVIEW

File: Physlib/Relativity/LorentzGroup/Basic.lean [hunk 1]
```diff
@@ -145,6 +146,29 @@ open minkowskiMatrix
...
+    IsClosed (LorentzGroup d : Set (Matrix (Fin 1 ⊕ Fin d) (Fin 1 ⊕ Fin d) ℝ)) := by
+  rw [LorentzGroup]
+  exact isClosed_singleton.preimage continuous_self_mul_dual
+
+/-- The coercion from the Lorentz group to its ambient matrix space is a closed embedding. -/
+lemma isClosedEmbedding_val {d : ℕ} :
+    Topology.IsClosedEmbedding
+      (Subtype.val : LorentzGroup d → Matrix (Fin 1 ⊕ Fin d) (Fin 1 ⊕ Fin d) ℝ) :=
+  (isClosed d).isClosedEmbedding_subtypeVal
+
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Basic.lean:171]:
```suggestion

/-!

## Inverses

-/

```

**Comment by Robby955** [comment]
-awaiting-author

**Comment by Robby955** [comment]
I believe I implemented your suggestion on this one, if not or I missed it, just let me know what you would like to see or prefer!

**Review by jstoobysmith — APPROVED** [review]
Approved - looks good.

**Comment by jstoobysmith** [comment]
I've merge with master to check it works with the Bump before merging.
